US07709479B1
Dimethylformamide (0.25 ml) was added dropwise to a solution of 6-acetoxy-7-methoxy-3,4-dihydroquinazolin-4-one (13.8 g, 59.0 mmol) in thionyl chloride (150 ml) and the reaction was heated at reflux for 1.5 hours. The reaction was cooled, excess thionyl chloride was removed in vacuo and the residue was azeotroped with toluene (2×50 ml) to remove the last of the thionyl chloride. Drying in vacuo yielded 4-chloro-6,7-dimethoxyquinazoline hydrochloride (14.7 g, 87% yield) as a beige solid, which was used without further purification:

reactant | Dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
reactant | 6-acetoxy-7-methoxy-3,4-dihydroquinazolin-4-one | 59.0 mmol, 13.8 g | C(C)(=O)OC=1C=C2C(NC=NC2=CC1OC)=O | C11H10N2O4
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 14.7 g, 87% yield | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C10H9ClN2O2.ClH/c1-14-8-3-6-7(4-9(8)15-2)12-5-13-10(6)11;/h3-5H,1-2H3;1H
